US09034866B2
Synthesis of ethyl 9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate
To a solution of ethyl 4-hydroxy-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (2.3 g, 5.55 mmol, 1.00 equiv) in dichloromethane (50 mL) was added triethylsilane (9.7 g, 83.42 mmol, 15.00 equiv) and boron trifluoride diethyletherate (7.8 g, 10.00 equiv) at room temperature. After 1 h at room temperature the resulting mixture was diluted with 30 mL of dichloromethane, washed with saturated sodium bicarbonate solution, extracted with dichloromethane, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:9) to give 370 mg (17%) of the titled compound as a light yellow solid; LC-MS (ES, m/z) 399 [M+H]+.

reactant | ethyl 4-hydroxy-9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 5.55 mmol, 2.3 g, 1.00 equiv | OC1(C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC)C | C15H15IN2O4
reactant | triethylsilane | 83.42 mmol, 9.7 g, 15.00 equiv | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | ethyl 9-iodo-4-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 370 mg, 17% | IC1=CC2=C(OCC(C=3N2N=C(C3)C(=O)OCC)C)C=C1 | C15H15IN2O3
